US04910201
Synthesis of 4-chloro-2-(4-chlorophenyl)-5-(4-trifluoromethylbenzyloxy)-3(2H)-pyridazinone (Compound No. 49)
In 30 ml of N,N-dimethylformamide were dissolved 1.0 g (3.6 m mol) of 2-(4-chlorophenyl)-4,5-dichloro-3(2H)-pyridazinone and 0.64 g (3.6 m mol) of p-trifluoromethylbenzyl alcohol, and thereto was added 0.24 g of powdery potassium hydroxide. The reaction mixture was stirred at room temperature for one day. Then, the procedures in Synthesis Example 2 were repeated to give 900 mg of the intended compound.

reactant | 2-(4-chlorophenyl)-4,5-dichloro-3(2H)-pyridazinone | 1.0 g | ClC1=CC=C(C=C1)N1N=CC(=C(C1=O)Cl)Cl | C10H5Cl3N2O
reactant | p-trifluoromethylbenzyl alcohol | 0.64 g | FC(C1=CC=C(CO)C=C1)(F)F | C8H7F3O
reactant | potassium hydroxide | 0.24 g | [OH-].[K+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-chloro-2-(4-chlorophenyl)-5-(4-trifluoromethylbenzyloxy)-3(2H)-pyridazinone | 900 mg | ClC=1C(N(N=CC1OCC1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)Cl)=O | C18H11Cl2F3N2O2
